US07666868B2
21. (E)-N-Hydroxy-3-[1-(2′-methanesulfonylamino-biphenyl-4-sulfonyl)-1H-pyrrol-3-yl]-acrylamide
A mixture of 0.220 g (E)-3-[1-(2′-methanesulfonylamino-biphenyl-4-sulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide with 6.0 ml methanol and 13.0 ml 1M aqueous HCl is stirred at ambient temperature for 24 h. During evaporation the product starts to crystallize. The crystals are washed with water and diisopropylether. The crude product is purified by PLC plates chromatography. By this method 0.081 g of a red oil are obtained.

reactant | (E)-3-[1-(2′-methanesulfonylamino-biphenyl-4-sulfonyl)-1H-pyrrol-3-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.220 g | CS(=O)(=O)NC1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C25H27N3O7S2
reactant | HCl | 1M, 13.0 ml | Cl | ClH
solvent | methanol | 6.0 ml | CO | CH4O
product | (E)-N-Hydroxy-3-[1-(2′-methanesulfonylamino-biphenyl-4-sulfonyl)-1H-pyrrol-3-yl]-acrylamide | 0.081 g | ONC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C)=O | C20H19N3O6S2
